### PR TITLE
Update containers for Coq 8.7

### PR DESCRIPTION
**Pull request by sigurdschneider**
This is my attempt to port the `containers` library to the upcomming Coq version 8.7.

`containers` contains a plugin that generates proofs using tactics, and I had to change that quite a bit. The main source file is `generate.ml4`. I'd appreciate if someone could take a quick look; comments/suggestions would be most welcome.

### CODE REVIEW

File: theories/MapFacts.v [hunk 1]
```diff
@@ -2291,9 +2291,9 @@ Section AdditionalMorphisms.
       [contradiction Hnotin | contradiction Hnotin0]; eexists; eauto.
     inversion H; subst; split; intros [v' [Hvv' Hv'm]]; exists v'.
     rewrite Hvv'; split; auto.
-    rewrite <- (MapsTo_fun Hin) in *; auto.
+    rewrite <- (MapsTo_fun Hin Hv'm) in *; auto.
     rewrite Hvv'; split; auto.
-    rewrite <- (MapsTo_fun Hin0) in *; auto.
+    rewrite <- (MapsTo_fun Hin0 Hv'm) in *; auto.
```
Comment (herbelin) [inline theories/MapFacts.v]: Did you need this because of a regression?

File: theories/SetProperties.v [hunk 2]
```diff
@@ -236,22 +236,22 @@ Section BasicProperties.
   Proof. expAdd; fsetdec. Qed.
 
   Lemma union_Add : Add x s s' -> Add x (union s s'') (union s' s'').
-  Proof. expAdd; rewrite Add_Equal in H; fsetdec. Qed.
+  Proof. expAdd. fsetdec. Qed.
```
Comment (herbelin) [inline theories/SetProperties.v]: Is this because of a bug in `rewrite in *`?

**Review by herbelin — COMMENTED** [review]
Thanks a lot for the port. Note however that the `API.mli` filter on Coq API might be only from 8.8 and removed from 8.7. I did not look at all details, but the rest of the changes seem relevant for 8.7.

See also questions attached.

File: theories/MapFacts.v (hunk 1 above)
Comment (sigurdschneider) [reply theories/MapFacts.v]: Yes, somehow rewrite is rewriting more than neccessary, and from inspecting the proof terms in a nested fashion. I don't understand what happens here in detail, but here is a minimal example that exhibits the behavior as of coq/coq@01a341e6b406cafe2bf575640a90ec8d44b1f179.

```
Variable elt : Type.
Lemma EQ
  : forall (elt : Type) (e e' : elt), True -> e = e'.
Admitted.

Lemma test
      (v1 v2 v3: elt)
      (v' : v1 = v2)
  : v2 = v3.
Proof.
  Show Proof.
  rewrite <- (EQ _ v1 v2) in *. (* does 3 rewrites *)
  Show Proof.
  rewrite <- (EQ _ v1 v2 I) in *. (* would do 2 rewrites instead *)
```

File: theories/SetProperties.v (hunk 2 above)
Comment (sigurdschneider) [reply theories/SetProperties.v]: Some rewrites in the old version of containers are necessary in both Coq 8.6 and 8.7 because the tactic `expAdd` was defined as `intros; repeat rewrite Add_Equal in *` and the `rewrite Add_Equal in *`sometimes does not rewrite premises.

I defined the tactic as `repeat rewrite Add_Equal; intros` which side-steps this problem in both versions.

Looking at the behavior of `intros; repeat rewrite Add_Equal in *`, then all the rewrites I removed were necessary in 8.6. In 8.7, the proofs of `union_Add` and `inter_Add` work without manual rewrite, while `union_Add` and `inter_Add_2` still require a manual rewrite.

File: src/printing.ml [hunk 3]
```diff
@@ -13,21 +14,27 @@ let print_array f sep fin fmt a =
...
 
 let rec print_constr fmt c =
   let f = print_constr in
   match kind_of_term c with
-  | _ when c = build_coq_False () -> fprintf fmt "False"
-  | _ when c = build_coq_True () -> fprintf fmt "True"
-  | _ when c = build_coq_not () -> fprintf fmt "Not"
-  | _ when c = build_coq_or () -> fprintf fmt "Or"
-  | _ when c = build_coq_and () -> fprintf fmt "And"
+  | _ when c = Universes.constr_of_global @@ Coqlib.build_coq_False () -> fprintf fmt "False"
```
Comment (sigurdschneider) [inline src/printing.ml]: My understanding is that the equality check here ignores universe levels (i.e. or terms with different universe levels are considered equal), hence `Universes.constr_of_global` is safe to use. Do you agree?

File: src/generate.ml4 [hunk 4]
```diff
@@ -322,26 +317,27 @@ let lemma_kind = (Decl_kinds.Global, false, Decl_kinds.Proof Decl_kinds.Lemma)
...
-  let sigma, _ty = Typing.type_of env sigma ty in
+  let sigma, _ty = Typing.type_of env sigma (EConstr.of_constr ty) in
    sigma
 
 let prove_refl indconstr mind body =
   let id_t = body.Declarations.mind_typename in
   let id_eq = add_suffix id_t "_eq" in
   let x = Nameops.make_ident "x" None in
-  let ceq = Universes.constr_of_reference
+  let ceq = Universes.constr_of_global
```
Comment (sigurdschneider) [inline src/generate.ml4]: I am not sure whether `Universes.constr_of_global` is OK here, because it is used on a proof of reflexivity. Would this be the right way to do it?
```
let env = Global.env () in
let evd = Evd.from_env env in
let (evd',eceq) = Evarutil.new_global evd (Nametab.global (Libnames.Ident (dl id_eq))) in
let ceq = EConstr.to_constr evd' eceq

```

File: src/printing.ml (hunk 3 above)
Comment (ppedrot) [reply src/printing.ml]: It's safe because all the constants you consider are monomorphic. Otherwise it would just raise an error. That said, I'd urge you to use instead the really correct form of this code, as it is going to be removed in 8.8. The correct way to write this is to use the `Globnames.is_global` function.

File: src/printing.ml [hunk 5]
```diff
@@ -13,21 +14,27 @@ let print_array f sep fin fmt a =
...
+  | _ when c = Universes.constr_of_global @@ build_coq_True () -> fprintf fmt "True"
+  | _ when c = Universes.constr_of_global @@ build_coq_not () -> fprintf fmt "Not"
+  | _ when c = coq_or -> fprintf fmt "Or"
```
Comment (ppedrot) [inline src/printing.ml]: Never ever use a structural equality test on opaque datatypes.

File: src/generate.ml4 [hunk 6]
```diff
@@ -1446,28 +1421,37 @@ let mmake_cmp_def k ind masks mind =
...
-    mltac_index = 0;
-  } in
-  let tac args _ =
-    let map v =
-      let id = Tacinterp.Value.cast (topwit wit_ident) v in
-      { Tacexpr.delayed = fun _ sigma -> Sigma.here (Constrintern.global_reference id) sigma }
-    in
-    let args = List.map map args in
-    Auto.h_auto None args (Some [])
+let using_sym_tac = ref (None:Tacexpr.ml_tactic_entry option)
```
Comment (sigurdschneider) [inline src/generate.ml4]: I am using this option reference to ensure `using_sym` is not multiply defined. Is there a more idiomatic way to accomplish this?

File: src/printing.ml (hunk 3 above)
Comment (sigurdschneider) [reply src/printing.ml]: Thank for the suggestion, done!

File: src/printing.ml (hunk 5 above)
Comment (sigurdschneider) [reply src/printing.ml]: Thanks, fixed.

**Comment by sigurdschneider** [comment]
@herbelin Thank you for your comments. I just rebased on master so as to include the changes you already did there. I'm sorry I did not do that in the first place, I wasn't aware of it, and the way you handle `EConstr` is certainly much cleaner.

If you think this PR to too big, and there is a part which you find acceptable I can break that out and submit it as a separate PR. If there is any part of the PR that can be improved (such as the way `Evd.evar_map` 
 is used in `do_proofs`) please let me know. If there is any part that should be left out (such as renaming `Make` to `_Coqfile`) let me know and I remove that part.

**Comment by vbgl** [comment]
Any reason not to merge this? Are there any other plans to use `containers` with recent versions of Coq?

**Comment by mattam82** [comment]
I guess not, did anyone else than the author try to compile it though? @herbelin I guess you know better

**Comment by herbelin** [comment]
Well, I now merged it (after removal of the references to `API`, which is not in 8.7).

...And sorry for the delay, it went out of what I was watching.
